Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___
 
Chief Complaint:
numbness and tingling
 
Major Surgical or Invasive Procedure:
N/A

 
History of Present Illness:
The pt is a ___ year-old M w/ hx of chronic sinusitis who 
presents
for recent onset of numbness/tingling. Hx obtained from pt at
bedside.

Clinical course/associated symptoms:
Pt reports that ___ days ago he developed numbness over the
lateral dorsum of his right foot.  He denied any Novocain
sensation or tingling at this location but only noticed numbness
when.  Touched no associated pain and symptoms were persistent 
in
nature and not episodic.  Few days after noticing this numbness,
he also developed numbness in his bilateral pinkies which
subsequently spread to his other fingers.  Few days ago he also
became aware of numbness over the shaft of his penis as well as
potentially over rectum when wiping.  In the last few days,
patient also started to note tenderness or soreness in the 
middle
volar aspect of his bilateral hands.  Due to these persistent 
and
progressive symptoms, patient presented to his primary care
doctor on ___.  There, his physician ordered ___ very
laboratory workup and recommended that if he continued to have
worsening of his symptoms that he come to the ED for further
evaluation on day of presentation patient noticed that his
symptoms seem to be worsening and called the PCPs office who
suggested he come in.

Besides these neurologic phenomena patient has also noted some
arthralgias in his bilateral ankles episodically, generally for
half an hour every few days.  He also noted similar pain in his
right knee and right hip.  Additionally, patient has felt
subjective hot and cold sensation during day and at night during
day, when at school, he might feel excessively chilly.  At
nighttime when lying in bed, he can occasionally become too hot. 

Denies any profound weakness or pain in his extremities.  No
history of back pain or neck pain no prior symptoms of shooting
burning/tingling sensation.  Patient denies having similar 
events
in the past.  Patient does endorse having a URI approximately 
___
weeks ago particularly defined as a sore throat.  He is also an
avid hiker and spends plenty of times outdoors
 
Past Medical History:
Chronic sinusitis and frequent sinus infections

 
Social History:
___
Family History:
His mother is living at age ___ and has hypothyroidism and
Raynaud's.  His father is living and generally healthy at age 
___.
He is a ___ sister who is also healthy and currently
pregnant.  His paternal uncle died of testicular cancer ___. His
maternal grandmother passed away of pancreatic cancer. His
maternal grandmother had breast cancer. Maternal grandfather has
hypertension. His paternal grandfather died of unknown causes.   

 
Physical Exam:
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted.
Extremities: No C/C/E bilaterally, 2+ radial, DP pulses
bilaterally.
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects. Speech
was not dysarthric. Able to follow both midline and appendicular
commands. There was no evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. Visual acuity
___ bilaterally. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift 
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis 
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: Endorses decreased temperature sense over b/l forearms 
circumferentially up to elbows as well as in dorsum of feet 
bilaterally. No deficits to light touch, vibration, or 
proprioception throughout.

-DTRs:
  Bi Tri ___ Pat Ach
L  3  3    3    2   2
R  3  3    3    2   2
Plantar response was mute bilaterally.

-Coordination: No intention tremor noted. No dysmetria on FNF or
HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm 
swing.  Able to walk in tandem without difficulty. Romberg 
absent.

 
Pertinent Results:
LABORATORY EVALUATION:

___ 08:27PM BLOOD WBC-8.4 RBC-5.26 Hgb-16.2 Hct-46.0 MCV-88 
MCH-30.8 MCHC-35.2 RDW-12.9 RDWSD-40.5 Plt ___
___ 08:27PM BLOOD Neuts-65.0 ___ Monos-6.5 Eos-0.8* 
Baso-0.5 Im ___ AbsNeut-5.45 AbsLymp-2.27 AbsMono-0.55 
AbsEos-0.07 AbsBaso-0.04
___ 08:27PM BLOOD Glucose-120* UreaN-14 Creat-0.9 Na-140 
K-4.5 Cl-102 HCO3-25 AnGap-13
___ 08:27PM BLOOD Calcium-9.3 Phos-2.8 Mg-2.1
___ 10:28AM BLOOD RheuFac-<10 CRP-0.9 antiTPO-PND
___ 06:03AM BLOOD HBsAg-PND HBsAb-PND HBcAb-PND
___ 06:03AM BLOOD HIV Ab-PND
___ 10:28AM BLOOD tTG-IgA-PND
___ 06:03AM BLOOD HCV Ab-PND
___ 10:28AM BLOOD RO & ___
___ 10:28AM BLOOD METHYLMALONIC ACID-PND
___ 10:28AM BLOOD ANGIOTENSIN 1 - CONVERTING ___
RPR NR

MRI C/T-spine w/wo ___:
IMPRESSION: 
1. Multiple disc protrusions in the cervical spine mildly indent 
the ventral thecal sac without spinal cord contact.  Cervical 
spinal cord signal is normal.  Neural foraminal narrowing is 
moderate at C4-C5 and C5-C6 on the right, and severe at C5-C6 on 
the left. 
2. At T8-T9, a left paracentral disc herniation moderately 
remodels the left ventral spinal cord with mild-to-moderate 
spinal canal narrowing.  
Questionable faint associated cord T2 hyperintensity on sagittal 
images, 
without confirmation on axial images. 
3. At T9-T10, a smaller left paracentral disc herniation mildly 
remodels the left ventral spinal cord with mild spinal canal 
narrowing.  No evidence for spinal cord signal abnormalities. 

 
Brief Hospital Course:
___ year old man who presented with ___ weeks of numbness and 
tingling in his distal lower extremities (lateral portion feet, 
digit 5 of the L>R hand, patchy forearms and penis shaft. His 
examination was notable for slight distal sensory loss to LT and 
cold with preserved motor strength throughout, intact 
proprioception and hyperreflexia in the legs. Given the 
hyperreflexia, evaluation included C/T-spine MRI which revealed 
mild multilevel cervical degenerative changes as well as a more 
significant T8-9 left paracentral disc herniation, which could 
explain the hyperreflexia. There were no cord signal 
abnormalities to suggest demyelinating disease or inflammation. 
His examination remained stable throughout admission with fully 
intact strength, proprioception, coordination, normal gait and 
presence of symmetric reflexes, though brisk in both legs. 
Concern for acute inflammatory demyelinating polyneuropathy or 
inflammatory myelitis/radiculitis was deemed very low. He 
underwent extensive lab workup for causes of peripheral 
neuropathy including:
-vitamin B12, TSH, A1c, RF, SPEP, UPEP, ESR - negative
-___ - positive, titer pending
-HIV, hepatitis serologies, TTG-IgA, Sjogren's Ab, MMA, and ACE 
- pending at time of discharge.

He was discharged with close follow up already arranged in 
general neurology clinic and with instructions to return if 
symptoms change significantly.

Transitional issues:
[ ] f/u remainder of pending labs for peripheral neuropathy and 
consider additional workup if needed
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Pulmicort (budesonide) 0.5 mg/2 mL inhalation BID 
2. Cetirizine 10 mg PO DAILY 
3. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Cetirizine 10 mg PO DAILY  
2.  Multivitamins 1 TAB PO DAILY  
3.  Pulmicort (budesonide) 0.5 mg/2 mL inhalation BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Distal sensory paresthesias
cervical and thoracic disc disease
hyperreflexia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted due to tingling in your extremities. We 
evaluated you and felt that your symptoms were NOT consistent 
with ___ syndrome or spinal cord abnormalities. They 
may reflect a small fiber neuropathy, for which you have 
undergone extensive lab testing, some results of which are still 
pending. You were found to have some minor disc herniations in 
your cervical and thoracic spine, which can be treated with core 
exercises and observed over time. Your neurologic examination 
remained otherwise excellent, and you were deemed safe to 
discharge home with Neurology follow up, which has already been 
arranged. If you experience a sudden change in your symptoms 
such as worsening numbness, new weakness, or bowel or bladder 
incontinence or retention, please call your PCP or seek medical 
attention immediately.

It was a pleasure taking care of you. We wish you the best.
Sincerely,
Your ___ Care Team
 
Followup Instructions:
___